US04000275
6-(3-Carbomethoxypropionyl)benzimidazo[2,1-b]quinazolin-12(6H)one is prepared with benzimidazo[2,1-b]quinazolin-12(6H)one and methyl 3-(chloroformyl)propionate.

reactant | benzimidazo[2,1-b]quinazolin-12(6H)one | C1=C2C(N3C(=NC2=CC=C1)NC1=C3C=CC=C1)=O | C14H9N3O
reactant | methyl 3-(chloroformyl)propionate | ClC(=O)CCC(=O)OC | C5H7ClO3
product | 6-(3-Carbomethoxypropionyl)benzimidazo[2,1-b]quinazolin-12(6H)one | C(=O)(OC)CCC(=O)N1C2=C(C=CC=C2)N2C1=NC1=CC=CC=C1C2=O | C19H15N3O4
